US05215901
A fermentation was carried out, using the procedure and materials described in Example 1, except that 10 g capsul (food grade dextrine; National Starch), 0.15 g linoleic acid, 0.15 g oleic acid and 4 g lecithin were added per liter of fermentation broth. 1.5 g/kg Delta-decalactone was obtained from the broth.

reactant | linoleic acid | 0.15 g | C(CCCCCCC\C=C/C\C=C/CCCCC)(=O)O | C18H32O2
reactant | oleic acid | 0.15 g | C(CCCCCCC\C=C/CCCCCCCC)(=O)O | C18H34O2
product | Delta-decalactone | CCCCCC1CCCC(=O)O1 | C10H18O2
